US07423061B2
2-Amino-5-(4-methoxy-phenyl)-thiophene-3-carboxylic acid.
To a stirred solution of 2-amino-5-(4-methoxy-phenyl)-thiophene-3-carboxylic acid methyl ester (6.6 g, 26.6 mmol) in MeOH (200 mL) was added 6N NaOH (100 mL) and water (50 mL). The reaction was heated to reflux for 2 h or until starting material was gone by TLC or LCMS. The solution was concentrated under vacuum to about half of the original volume. The pH of the resultant cloudy mixture was adjusted to 3-5 by the careful addition of 6N HCl (˜150 mL) while stirring. The gummy red precipitate was filtered and dried. Purification was achieved by triturating in boiling hexanes. The product (6.0 g, 91%) was isolated in pure form by filtration after cooling to room temperature and drying in a vacuum oven overnight. 1H NMR (d6-DMSO δ 7.37, d, 2H, δ 7.11, s, 1H; δ 7.10, br s, 2H; δ 6.94, d, 2H), LC/MS (APCI, ES, M+H=250).

reactant | 2-amino-5-(4-methoxy-phenyl)-thiophene-3-carboxylic acid methyl ester | 26.6 mmol, 6.6 g | COC(=O)C1=C(SC(=C1)C1=CC=C(C=C1)OC)N | C13H13NO3S
reactant | NaOH | 6N, 100 mL | [OH-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | MeOH | 200 mL | CO | CH4O
product | 2-Amino-5-(4-methoxy-phenyl)-thiophene-3-carboxylic acid | 6.0 g, 91% | NC=1SC(=CC1C(=O)O)C1=CC=C(C=C1)OC | C12H11NO3S
